US05688795
A mixture of N,N,5-trimethyl-2-nitrobenzamide (11 g, 52.8 mmol) and 5% palladium on carbon (1 g) in 100 mL of ethanol was stirred under a hydrogen atmosphere for 18 hours. Additional 5% palladium on carbon (1 g) was added and the mixture was stirred for approximately 8 hours. The mixture was filtered and the filtrate was concentrated. The residue was purified on silica gel by flash chromatography eluting with 4% ethanol/methylene chloride to give 2-amino-N,N,5-trimethylbenzamide (8 g, 44.9 mmol), m.p. 98°-99° C.

reactant | N,N,5-trimethyl-2-nitrobenzamide | 52.8 mmol, 11 g | CN(C(C1=C(C=CC(=C1)C)[N+](=O)[O-])=O)C | C10H12N2O3
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | 2-amino-N,N,5-trimethylbenzamide | 44.9 mmol, 8 g | NC1=C(C(=O)N(C)C)C=C(C=C1)C | C10H14N2O
